US09163021B2
[1-Isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]acetic acid
Aqueous sodium hydroxide (150 mL of a 1 M solution) was added to [1-isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]acetonitrile (Preparation 106, 6.2 g, 28.6 mmol) in EtOH (150 mL) and the mixture was heated at 60° C. for 16 hours. The mixture was evaporated in vacuo and the residue was dissolved in water (50 mL) then washed with EtOAc (100 mL). The aqueous phase was acidified to pH 5 using 1N HCl and extracted with 10% IPA in DCM (4×100 mL). The combined organic phases were dried over sodium sulphate and evaporated in vacuo to afford the title compound as a white solid in 75% yield, 5.0 g.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | [1-isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]acetonitrile | 28.6 mmol, 6.2 g | C(C)(C)N1N=CC(=C1C(F)(F)F)CC#N | C9H10F3N3
reactant | EtOH | 150 mL | CCO | C2H6O
product | [1-Isopropyl-5-(trifluoromethyl)-1H-pyrazol-4-yl]acetic acid | 75% yield | C(C)(C)N1N=CC(=C1C(F)(F)F)CC(=O)O | C9H11F3N2O2
